US08426420B2
v) 4-((S)-2-Amino-4,4,4-trifluoro-butyryl)-piperazine-1-carboxylic acid propyl ester
To a solution of 170 mg 4-((S)-2-Benzyloxycarbonylamino-4,4,4-trifluoro-butyryl)-piperazine-1-carboxylic acid propyl ester in 20 ml ethanol were added 0.05 g Pd/C (10%) and the suspension stirred under an atmosphere of hydrogen (3 bar) for 12 h. The reaction mixture was filtrated over a plug of Celite, washed with ethanol and concentrated to give the crude product which was used in the subsequent reaction. Yield: 106 mg.

reactant | 4-((S)-2-Benzyloxycarbonylamino-4,4,4-trifluoro-butyryl)-piperazine-1-carboxylic acid propyl ester | 170 mg | C(CC)OC(=O)N1CCN(CC1)C([C@H](CC(F)(F)F)NC(=O)OCC1=CC=CC=C1)=O | C20H26F3N3O5
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.05 g | [Pd] | Pd
product | 4-((S)-2-Amino-4,4,4-trifluoro-butyryl)-piperazine-1-carboxylic acid propyl ester | C(CC)OC(=O)N1CCN(CC1)C([C@H](CC(F)(F)F)N)=O | C12H20F3N3O3
